US07582652B2
5-[2-(2,6-Difluorophenyl)-3-methyl-5-phenyl-3H-imidazol-4-yl]-3-isobutyl-3H-imidazo[4,5-b]pyridin-2-ylamine
Heat N′-{5-[2-(2,6-difluorophenyl)-3-methyl-5-phenyl-3H-imidazol-4-yl]-3-isobutyl-3H-imidazo[4,5-b]pyridin-2-yl}-N,N-dimethylformamidine (0.02 g, 0.04 mol) in 1:1 glacial acetic acid:concentrated HCl (0.6 mL) at 100° C. for 30 min. Cool to RT. Add CH2Cl2 and water, neutralize with 5N NaOH to about pH=7 with rapid stirring. Extract the aqueous phase 3× with CH2Cl2, combine organic layers, wash with saturated aqueous NaCl and dry over Na2SO4. Filter and concentrate to give the title compound (0.02 g).

reactant | N′-{5-[2-(2,6-difluorophenyl)-3-methyl-5-phenyl-3H-imidazol-4-yl]-3-isobutyl-3H-imidazo[4,5-b]pyridin-2-yl}-N,N-dimethylformamidine | 0.04 mol, 0.02 g | FC1=C(C(=CC=C1)F)C1=NC(=C(N1C)C1=CC=C2C(=N1)N(C(=N2)N=CN(C)C)CC(C)C)C2=CC=CC=C2 | C29H29F2N7
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | HCl | 0.6 mL | Cl | ClH
reactant | NaOH | 5N | [OH-].[Na+]
solvent | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-[2-(2,6-Difluorophenyl)-3-methyl-5-phenyl-3H-imidazol-4-yl]-3-isobutyl-3H-imidazo[4,5-b]pyridin-2-ylamine | 0.02 g | FC1=C(C(=CC=C1)F)C1=NC(=C(N1C)C1=CC=C2C(=N1)N(C(=N2)N)CC(C)C)C2=CC=CC=C2 | C26H24F2N6
